US08383639B2
3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide.
To a stirred suspension of 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid (prepared according to the procedure in Naidu, B. N. et al WO2005118593) (0.66 g, 2 mmol) in CH2Cl2 (10 mL) containing catalytic DMF was added oxalyl chloride in CH2Cl2 (2 M, 2 mL, 4 mmol) at room temperature. After 3 h, the resulting clear reaction solution was concentrated to remove excess oxalyl chloride. The resulting residue was re-dissolved in CH2Cl2 (20 mL) and treated with anhydrous hydrazine (0.34 mL, 10 mmol). After 2 h at room temperature, the reaction mixture was concentrated and the residue was taken up in EtOAc (100 mL) and washed with sat. NaHCO3 (10 mL), water (10 mL), brine (10 mL) then dried (Na2SO4), filtered and concentrated to give a white solid. This was digested with Et2O (20 mL) and filtered. Concentration of filtrate provided the title compound (0.17 g, 27% yield). 1HNMR (500 MHz, CDCl3) δ: 8.35 (1H, s), 7.55 (2H, d, J=7.3 Hz), 7.38-7.31 (3H, m), 5.30 (2H, s), 4.03-3.97 (6H, m), 1.60 (6H, s). HRMS (M+H) calcd for C17H21N4O5: 345.1563. found: 345.1577.

reactant | 3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)O | C17H18N2O5
reactant | DMF | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrazine | 10 mmol, 0.34 mL | NN | H4N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mmol, 2 M, 2 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 3-(Benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carbohydrazide | 0.17 g, 27% yield | C(C1=CC=CC=C1)OC1=C(N=C2C(OCCN2C1=O)(C)C)C(=O)NN | C17H20N4O4
